US05110955
A solution of lithium dimethylcuprate (prepared from 0.97 g (5.1 mmol) of copper-(I) iodide and 6.4 ml of a 1.6M ethereal methyllithium solution) in ether (30 ml) was cooled to -78° C. and treated dropwise with a solution of methyl 5-(2,5-dimethoxy-3,4,6-trimethylphenyl)-2-pentynoate (1 g; 3.4 mmol) in THF (10 ml). The mixture was stirred at -78° C. for 90 minutes, treated with 0.5 ml of methanol, warmed to room temperature and treated with saturated ammonium chloride solution. The mixture was extracted twice with ether and the combined extracts were washed with water and dried. The remaining residue was purified on silica gel with hexane/ethyl acetate (95:5), yielding 0.81 g of crystalline methyl (Z)-5-(2,5-dimethoxy-3,4,6-trimethylphenyl)-3-methyl-2-pentenoate. M.P. 87.5°-89° C.

reactant | methyllithium | 1.6M | C[Li]
reactant | methyl 5-(2,5-dimethoxy-3,4,6-trimethylphenyl)-2-pentynoate | 3.4 mmol, 1 g | COC1=C(C(=C(C(=C1C)C)OC)C)CCC#CC(=O)OC | C17H22O4
reactant | methanol | 0.5 ml | CO | CH4O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | copper-(I) iodide | 5.1 mmol, 0.97 g | [Cu]I
product | methyl (Z)-5-(2,5-dimethoxy-3,4,6-trimethylphenyl)-3-methyl-2-pentenoate | 0.81 g | COC1=C(C(=C(C(=C1C)C)OC)C)CC\C(=C/C(=O)OC)\C | C18H26O4
